US06166015
A solution of (S)-1-(tert-butoxycarbonylamino)-3-cyanopyrrolidine (13.5g, 67 mmol) in 50 mL of 3% NH4OH/methanol and Raney Nickel (0.5 g, 50% slurry in water) was pressurized to 40 psi under H2 atmosphere. After stirring for 12 h at room temperature, the reaction mixture was filtered through a pad of Celite and the residue was washed with 100 mL of methanol. The filtrate was concentrated to dryness to give an oil (S)-1-(tert-butoxycarbonylamino)-3-aminomethylpyrrolidine (10 g).

reactant | (S)-1-(tert-butoxycarbonylamino)-3-cyanopyrrolidine | 67 mmol, 13.5g | C(C)(C)(C)OC(=O)NN1C[C@H](CC1)C#N | C10H17N3O2
solvent | NH4OH methanol | 50 mL | [NH4+].[OH-].CO
catalyst | Raney Nickel | 0.5 g | [Ni] | Ni
product | (S)-1-(tert-butoxycarbonylamino)-3-aminomethylpyrrolidine | 10 g | C(C)(C)(C)OC(=O)NN1C[C@@H](CC1)CN | C10H21N3O2
